US09120749B2
tert-butyl (1-(5-((3-acetyl-6-bromoquinolin-4-yl)amino)pyridin-2-yl)piperidin-3-yl)(methyl)carbamate
Following general procedure C, 1-(6-bromo-4-chloroquinolin-3-yl)ethanone (285 mg, 1.0 mmol) was reacted with tert-butyl (1-(5-aminopyridin-2-yl)piperidin-3-yl)(methyl)carbamate (442 mg, 1.45 mmol) to afford the desired product (446 mg, 80%) as an orange-red solid. ESI MS m/z 554 [C27H32BrN5O3+H]+

reactant | 1-(6-bromo-4-chloroquinolin-3-yl)ethanone | 1.0 mmol, 285 mg | BrC=1C=C2C(=C(C=NC2=CC1)C(C)=O)Cl | C11H7BrClNO
reactant | tert-butyl (1-(5-aminopyridin-2-yl)piperidin-3-yl)(methyl)carbamate | 1.45 mmol, 442 mg | NC=1C=CC(=NC1)N1CC(CCC1)N(C(OC(C)(C)C)=O)C | C16H26N4O2
product | tert-butyl (1-(5-((3-acetyl-6-bromoquinolin-4-yl)amino)pyridin-2-yl)piperidin-3-yl)(methyl)carbamate | 446 mg, 80% | C(C)(=O)C=1C=NC2=CC=C(C=C2C1NC=1C=CC(=NC1)N1CC(CCC1)N(C(OC(C)(C)C)=O)C)Br | C27H32BrN5O3
